US09359359B2
To a solution of ethyl 4-bromobutanoate (2 g, 10.26 mmol) in acetone (20 mL) was added 3-(trifluoromethoxy)phenol (1.52 g, 8.54 mmol), followed by potassium carbonate (3.5 g, 25.36 mmol). The reaction was stirred at room temperature overnight. The mixture was partitioned between DCM and water. The organic phase was washed with brine, dried over sodium sulfate, and concentrated to give a crude product which was purified by silica gel chromatography eluting with petroleum/ethyl acetate (10:1 to 5:1) to give ethyl 3-(3-(trifluoromethoxy)phenoxy)propanoate (2.3 g, 92.1% yield) as a colorless oil.

reactant | ethyl 4-bromobutanoate | 10.26 mmol, 2 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | 3-(trifluoromethoxy)phenol | 8.54 mmol, 1.52 g | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | potassium carbonate | 25.36 mmol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | ethyl 3-(3-(trifluoromethoxy)phenoxy)propanoate | 2.3 g, 92.1% yield | FC(OC=1C=C(OCCC(=O)OCC)C=CC1)(F)F | C12H13F3O4
